### PR TITLE
[Merged by Bors] - chore(NumberTheory/FunctionField): rename `algebraMap_injective` to `FunctionField.algebraMap_injective`

### PR DESCRIPTION
**Pull request by jjdishere**
Rename theorem `algebraMap_injective` to `FunctionField.algebraMap_injective` in file `Mathlib/NumberTheory/FunctionField.lean`. The theorem `algebraMap_injective` has always been in the root namespace before this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
This seems reasonable, but your PR title and summary imply that this lemma used to have a qualified name. It turns out it was always called this in mathlib4, though. Please clarify that and add a deprecated alias.

File: Mathlib/NumberTheory/FunctionField.lean [hunk 1]
```diff
@@ -74,13 +74,13 @@ theorem functionField_iff (Fqt : Type*) [Field Fqt] [Algebra Fq[X] Fqt]
     refine FiniteDimensional.of_fintype_basis (b.mapCoeffs e.symm ?_)
     intro c x; convert (this (e.symm c) x).symm; simp only [e.apply_symm_apply]
 
+namespace FunctionField
+
 theorem algebraMap_injective [Algebra Fq[X] F] [Algebra (RatFunc Fq) F]
     [IsScalarTower Fq[X] (RatFunc Fq) F] : Function.Injective (⇑(algebraMap Fq[X] F)) := by
   rw [IsScalarTower.algebraMap_eq Fq[X] (RatFunc Fq) F]
   exact (algebraMap (RatFunc Fq) F).injective.comp (IsFractionRing.injective Fq[X] (RatFunc Fq))
```
Comment (jjdishere) [inline Mathlib/NumberTheory/FunctionField.lean:83]:
```suggestion

@[deprecated (since := "2025-03-03")]
alias _root_.algebraMap_injective := FunctionField.algebraMap_injective
```

File: Mathlib/NumberTheory/FunctionField.lean [hunk 2]
```diff
@@ -74,13 +74,15 @@ theorem functionField_iff (Fqt : Type*) [Field Fqt] [Algebra Fq[X] Fqt]
...
 
-namespace FunctionField
-
+@[deprecated (since := "2025-03-03")]
+alias _root_.algebraMap_injective := FunctionField.algebraMap_injective
```
Comment (jjdishere) [inline Mathlib/NumberTheory/FunctionField.lean:85]:
```suggestion
alias _root_.algebraMap_injective := FunctionField.algebraMap_injective

```

**Comment by jjdishere** [comment]
> This seems reasonable, but your PR title and summary imply that this lemma used to have a qualified name. It turns out it was always called this in mathlib4, though. Please clarify that and add a deprecated alias.

PR summary and name fixed, deprecated alias added. Thank you!

**Comment by j-loreaux** [comment]
The fact that this decl was in the root namespace has bothered me in the past, thanks!

bors merge

**Comment by ocfnash** [comment]
Great to have this out of the root namespace, in fact in view of [FaithfulSMul.algebraMap_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Basic.html#FaithfulSMul.algebraMap_injective) I think we go could one step further and turn this into an instance of `FaithfulSMul` (instead of a lemma).

**Comment by jjdishere** [comment]
@ocfnash Do you suggest removing the original lemma? 
In this case, what do you think about removing most of the lemmas of the form `Function.injective (algebraMap A B)` in mathlib? And what about rename `[FaithfulSMul.algebraMap_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Basic.html#FaithfulSMul.algebraMap_injective)` to root namespace `algebraMap_injective`?

**Comment by ocfnash** [comment]
@jjdishere Yes exactly: replacing the lemmas of the `injective (algebraMap A B)` with an instance of `FaithfulSMul`. I would also support moving `FaithfulSMul.algebraMap_injective` to the root namespace now that this is possible.
